US07723399B2
Preparation of dimethyl-thiocarbamic acid —O-(1,3-dioxo-octahydro-isoindol-2-yl) ester
To a solution of 25.38 g (0.15 mol) of N-hydroxy-hexahydrophthalimide (prepared as described in Chem. Pharm. Bull., 16, (1968), 622) and 0.5 g 4-dimethylaminopyridine in 100 ml pyridine were added 18.54 g (0.15 mol) of dimethylthiocarbamoyl chloride. The mixture was stirred at room temperature during 3 h and then poured into 1000 ml of ice water. The precipitate was filtered off and recrystallized from 120 ml of ethanol to give 28.38 g of white crystals, mp. 124-126° C.

reactant | N-hydroxy-hexahydrophthalimide | 0.15 mol, 25.38 g | ON1C(C2C(C1=O)CCCC2)=O | C8H11NO3
reactant | dimethylthiocarbamoyl chloride | 0.15 mol, 18.54 g | CN(C(=S)Cl)C | C3H6ClNS
catalyst | 4-dimethylaminopyridine | 0.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | dimethyl-thiocarbamic acid —O-(1,3-dioxo-octahydro-isoindol-2-yl) ester | 28.38 g | O=C1N(C(C2CCCCC12)=O)OC(N(C)C)=S | C11H16N2O3S
